US08071595B2
To a stirred solution of 4-(4-hydroxyphenyl)-5-(4-methoxyphenyl)-1,3-dimethyl-1H-imidazol-2(3H)-one (0.35 g, 1.12 mmol) in AcN (20 mL) was added K2CO3 (0.46 g, 3.3 mmol) at RT. The reaction mixture was heated to 80° C. for 30 min, and then 2-(chloromethyl)quinoline hydrochloride (0.29 g, 1.35 mmol) was added and the mixture stirred for an additional 3 h at 80° C. Then the mixture was concentrated in vacuo and the residue was dissolved in EtOAc (30 mL). The organic layer was washed with water, dried over Na2SO4, filtered, and then concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography eluting with 80% EtOAc/20% hexanes to afford 4-(4-methoxyphenyl)-1,3-dimethyl-5-(4-(quinolin-2-ylmethoxy)phenyl)-1H-imidazol-2(3H)-one (0.2 g, 39%) as a solid. 1H NMR (500 MHz, CDCl3): δ 8.21 (d, J=7.2 Hz, 1H), 8.05 (d, J=8.4 Hz, 1H), 7.84 (d, J=7.2 Hz, 1H), 7.74-7.72 (m, 1H), 7.64 (d, J=7.6 Hz, 1H), 7.59-7.56 (m, 1H), 7.11-7.05 (m, 4H), 6.93 (d, J=7.2 Hz, 2H), 6.82 (d, J=7.6 Hz, 2H), 5.39 (s, 2H), 3.81 (s, 3H), 3.19 (s, 6H). MS: M+H: m/z=452.2 and HPLC: 97%, (Condition-H).

reactant | 4-(4-hydroxyphenyl)-5-(4-methoxyphenyl)-1,3-dimethyl-1H-imidazol-2(3H)-one | 1.12 mmol, 0.35 g | OC1=CC=C(C=C1)C=1N(C(N(C1C1=CC=C(C=C1)OC)C)=O)C | C18H18N2O3
reactant | K2CO3 | 3.3 mmol, 0.46 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(chloromethyl)quinoline hydrochloride | 1.35 mmol, 0.29 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
product | 4-(4-methoxyphenyl)-1,3-dimethyl-5-(4-(quinolin-2-ylmethoxy)phenyl)-1H-imidazol-2(3H)-one | 0.2 g, 39% | COC1=CC=C(C=C1)C=1N(C(N(C1C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C)=O)C | C28H25N3O3
